US04123608
Fractionation of Bohemic Acid Complex and Separation of Fraction Containing Rudolphomycin-Marcellomycin Mixture
The solids obtained were chromatographed on Brinkmann 60F254 silica gel thin layer plates using an 80:20 toluene:methanol solvent system. The first band to elute was shown by thin layer chromatography to be a complex inactive mixture. The second band gave a characteristic pinkish red zone at about Rf =0.75. This fraction was also inactive and was found to comprise mainly η-pyrromycinone. The third fraction to elute gave a single zone with Rf ~0.3. This was determined to be musettamycin and was highly active when tested on both the L1210 and P388 mouse leukemia systems. The final band to elute gave a zone of Rf ~0.3 and comprised mainly marcellomycin but also a minor proportion of rudolphomycin. This component exhibited high activity when tested on L1210 and P388 mouse leukemia systems.

reactant | η-pyrromycinone | CCC1=C(C2=CC3=C(C(=C2C=C1)O)C(=O)C4=C(C=CC(=C4C3=O)O)O)C(=O)OC | C22H16O7
reactant | musettamycin | CC[C@]1(C[C@@H](C2=C(C=C3C(=C2O)C(=O)C=4C(=CC=C(C4C3=O)O)O)[C@H]1C(=O)OC)O[C@H]5C[C@@H]([C@@H]([C@@H](O5)C)O[C@H]6C[C@@H]([C@@H]([C@@H](O6)C)O)O)N(C)C)O | C36H45NO14
reactant | marcellomycin | CC[C@]1(C[C@@H](C2=C(C=C3C(=C2O)C(=O)C=4C(=CC=C(C4C3=O)O)O)[C@H]1C(=O)OC)O[C@H]5C[C@@H]([C@@H]([C@@H](O5)C)O[C@H]6C[C@@H]([C@@H]([C@@H](O6)C)O[C@H]7C[C@@H]([C@@H]([C@@H](O7)C)O)O)O)N(C)C)O | C42H55NO17
reactant | rudolphomycin | CC[C@]1(C[C@@H](C2=C(C=C3C(=C2O)C(=O)C=4C(=CC=C(C4C3=O)O)O)[C@H]1C(=O)OC)O[C@H]5C[C@@H]([C@@H]([C@H](O5)C)O[C@H]6C[C@@H]([C@@H]([C@H](O6)C)O[C@H]7C(=CC(=O)[C@@H](O7)C)N)O)N(C)C)O | C42H52N2O16
product | Rudolphomycin Marcellomycin | CC[C@]1(C[C@@H](C2=C(C=C3C(=C2O)C(=O)C=4C(=CC=C(C4C3=O)O)O)[C@H]1C(=O)OC)O[C@H]5C[C@@H]([C@@H]([C@H](O5)C)O[C@H]6C[C@@H]([C@@H]([C@H](O6)C)O[C@H]7C(=CC(=O)[C@@H](O7)C)N)O)N(C)C)O.CC[C@]1(C[C@@H](C2=C(C=C3C(=C2O)C(=O)C=4C(=CC=C(C4C3=O)O)O)[C@H]1C(=O)OC)O[C@H]5C[C@@H]([C@@H]([C@@H](O5)C)O[C@H]6C[C@@H]([C@@H]([C@@H](O6)C)O[C@H]7C[C@@H]([C@@H]([C@@H](O7)C)O)O)O)N(C)C)O | InChI=1S/C42H52N2O16.C42H55NO17/c1-8-42(53)15-27(30-19(34(42)40(52)54-7)11-20-31(36(30)50)37(51)33-24(46)10-9-23(45)32(33)35(20)49)58-28-13-22(44(5)6)38(17(3)55-28)59-29-14-26(48)39(18(4)56-29)60-41-21(43)12-25(47)16(2)57-41;1-8-42(53)15-26(30-19(34(42)41(52)54-7)11-20-31(37(30)50)38(51)33-23(45)10-9-22(44)32(33)36(20)49)58-27-12-21(43(5)6)39(17(3)56-27)59-29-14-25(47)40(18(4)57-29)60-28-13-24(46)35(48)16(2)55-28/h9-12,16-18,22,26-29,34,38-39,41,45-46,48,50,53H,8,13-15,43H2,1-7H3;9-11,16-18,21,24-29,34-35,39-40,44-48,50,53H,8,12-15H2,1-7H3/t16-,17+,18+,22-,26-,27-,28-,29-,34-,38+,39+,41-,42+;16-,17-,18-,21-,24-,25-,26-,27-,28-,29-,34-,35+,39+,40+,42+/m00/s1
